US08580780B2
5-Aminomethyl-2-(3,3-dimethyl-butoxy)-pyridine:
Dissolve 6-(3,3-dimethyl-butoxy)-nicotinonitrile (1.4 g, 6.86 mmol) in anhydrous THF (10 mL) under nitrogen and add 1M BH3-THF complex in THF (20.6 mL, 20.6 mmol). Stir the mixture overnight under nitrogen and then pour the reaction carefully into 5N aqueous HCl (20 mL). Stir the resulting suspension for 6 h at room temperature. Then basify by adding 2N aqueous

reactant | 6-(3,3-dimethyl-butoxy)-nicotinonitrile | 6.86 mmol, 1.4 g | CC(CCOC1=NC=C(C#N)C=C1)(C)C | C12H16N2O
reactant | HCl | 5N, 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20.6 mmol, 20.6 mL | C1CCOC1 | C4H8O
product | 5-Aminomethyl-2-(3,3-dimethyl-butoxy)-pyridine | NCC=1C=CC(=NC1)OCCC(C)(C)C | C12H20N2O
